US07795262B2
Step 1. Preparation 2-morpholin-4-yl-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester
To a 500 ml round bottom flask charged with anhydrous EtOH (150 ml) under nitrogen at 0° C. are added morpholine-4-carboxamidine hydrobromide (10.50 g, 50 mmol), tert-butyl-3-[(dimethylamino)methylene]-4-oxo-1-piperidinecarboxylate (12.7 g, 50 mmol, 1.0 eq.), and potassium t-butoxide in t-butanol (11.0M, 100 ml, 100 mmol, 2.0 eq.). The resulting mixture is stirred at 75° C. for 16 hr. The solvent is evaporated under reduced pressure, and the residue is taken up in DCM (300 ml), washed with water and brine, dried (Na2SO4) and concentrated. The residue is purified by silica gel chromatography (Hexane/EtOAc 1:1) to give the title compound. MS (+VE) m/z 321.1 (M++1).

reactant | morpholine-4-carboxamidine hydrobromide | 50 mmol, 10.50 g | Br.N1(CCOCC1)C(=N)N
reactant | tert-butyl-3-[(dimethylamino)methylene]-4-oxo-1-piperidinecarboxylate | 50 mmol, 12.7 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)=CN(C)C | C13H22N2O3
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | t-butanol | 100 mmol, 11.0M, 100 ml, 2.0 eq. | C(C)(C)(C)O | C4H10O
solvent | EtOH | 150 ml | CCO | C2H6O
product | 2-morpholin-4-yl-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)N2CCOCC2)CC1 | C16H24N4O3
